US07977344B2
2-{[2-(Ethyloxy)ethyl]oxy}-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine
Sodium (1.25 g, 54.4 mmol) was dissolved in methanol (40 ml). After 10 min, 8-bromo-2-{[2-(ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (7 g, 18 mmol) was added with stirring. The mixture was heated to reflux for 2 h. The solvent was removed. The residue on a silica column using DCM: MeOH 100:1 as eluent to give the product as a yellow solid (4.78 g, 78.4%).

reactant | Sodium | 54.4 mmol, 1.25 g | [Na] | Na
reactant | 8-bromo-2-{[2-(ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 18 mmol, 7 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCOCC)C1OCCCC1 | C14H20BrN5O3
reactant | methanol | 40 ml | CO | CH4O
product | 2-{[2-(Ethyloxy)ethyl]oxy}-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine | 4.78 g, 78.4% | C(C)OCCOC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C15H23N5O4
